US06727264B1
4-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}-1-PHENYLBUTYL 3-(2-CHLOROPHENYL)-5-METHYL-4-ISOXAZOLECARBOXYLATE:
Prepared by Procedure Q1 and Scheme C2 (TEA) using N-{3-[1-(4-hydroxy-4-phenylbutyl)-4-piperidinyl]phenyl}-2-methylpropanamide and 3-(2-chlorophenyl)-5-methyl-4-isoxazolecarbonyl chloride: ESMS m/e: 614.2 (M+H)+.

reactant | N-{3-[1-(4-hydroxy-4-phenylbutyl)-4-piperidinyl]phenyl}-2-methylpropanamide | OC(CCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C25H34N2O2
reactant | 3-(2-chlorophenyl)-5-methyl-4-isoxazolecarbonyl chloride | ClC1=C(C=CC=C1)C1=NOC(=C1C(=O)Cl)C | C11H7Cl2NO2
product | 4-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}-1-PHENYLBUTYL 3-(2-CHLOROPHENYL)-5-METHYL-4-ISOXAZOLECARBOXYLATE | ClC1=C(C=CC=C1)C1=NOC(=C1C(=O)OC(CCCN1CCC(CC1)C1=CC(=CC=C1)NC(C(C)C)=O)C1=CC=CC=C1)C | C36H40ClN3O4
